US04404214
0.52 g of 4-n-butyl-2-pyridinecarboxylic acid, 0.48 g of N,N'-carbonyldiimidazole and 0.27 g of 5-aminotetrazole are treated in the same manner as described in Example 2. The crude product thus obtained is recrystallized from a mixture of dimethylformamide, water and ethanol, whereby 0.45 g of N-(5-tetrazolyl)-4-n-butyl-2-pyridinecarboxamide is obtained.

reactant | 4-n-butyl-2-pyridinecarboxylic acid | 0.52 g | C(CCC)C1=CC(=NC=C1)C(=O)O | C10H13NO2
reactant | 5-aminotetrazole | 0.27 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-4-n-butyl-2-pyridinecarboxamide | 0.45 g | N1N=NN=C1NC(=O)C1=NC=CC(=C1)CCCC | C11H14N6O
